US07923573B2
Tetrakis(triphenylphosphine)palladium (0) (220 mg, 0.193 mmol) and a 2N aqueous sodium carbonate solution (4.63 ml) were added to a solution of methyl [4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl(phenyl]acetate (1.07 g, 3.86 mmol) obtained in Example (12-1, and 2-chloro-5-hydroxypyridine (500 mg, 3.86 mmol) in dimethoxyethane (20 ml), and the mixture was stirred under heating with reflux overnight. The reaction mixture was diluted with ethyl acetate and water, and the insolubles were removed by filtration through Celite. After the obtained filtrate was extracted with ethyl acetate, the organic layer was washed with a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=2/1-1/1) to give methyl [4-(5-hydroxy-2-pyridinyl)phenyl]acetate (230 mg, yield: 24%).

reactant | sodium carbonate | 2N, 4.63 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl(phenyl]acetate | 3.86 mmol, 1.07 g | CC1(OB(OC1(C)C)C(C(=O)[O-])C1=CC=CC=C1)C
reactant | 2-chloro-5-hydroxypyridine | 3.86 mmol, 500 mg | ClC1=NC=C(C=C1)O | C5H4ClNO
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.193 mmol, 220 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl [4-(5-hydroxy-2-pyridinyl)phenyl]acetate | 230 mg, yield: 24% | OC=1C=CC(=NC1)C1=CC=C(C=C1)CC(=O)OC | C14H13NO3
